US07915281B2
A solution of N-[2-chloro-4-(pent-4-ynylamino)quinolin-3-yl]-2-ethoxyacetamide (10.23 g, 29.58 mmol) and 6 M aqueous potassium carbonate (7.40 mL, 44.4 mmol) in 9:1 ethanol/water (100 mL) was heated at 50° C. for 16 hours. The volatiles were removed under reduced pressure and the resulting slurry was partitioned between ethyl acetate and water. The organic phase was washed with water (2×) and brine (2×), dried over magnesium sulfate, filtered, and concentrated to afford 4-chloro-2-(ethoxymethyl)-1-pent-4-ynyl-1H-imidazo[4,5-c]quinoline as a slightly impure tan solid (9.5 g).

reactant | N-[2-chloro-4-(pent-4-ynylamino)quinolin-3-yl]-2-ethoxyacetamide | 29.58 mmol, 10.23 g | ClC1=NC2=CC=CC=C2C(=C1NC(COCC)=O)NCCCC#C | C18H20ClN3O2
reactant | potassium carbonate | 44.4 mmol, 6 M, 7.40 mL | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol water | 100 mL | C(C)O.O
product | 4-chloro-2-(ethoxymethyl)-1-pent-4-ynyl-1H-imidazo[4,5-c]quinoline | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCCC#C)COCC | C18H18ClN3O
